US04765825
Preparation of diethyl-4-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-2-pentenoyl-malonate
One proceeds in an analogous manner to the process disclosed in Example 4 by reacting 4-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-2-pentenoic acid at first with 12 g of pivaloyl chloride and thereafter with diethyl-ethoxy-magnesium malonate prepared from 17.6 g of diethyl malonate. The reaction mixture is worked up. 43 g of the viscous oily desired compound are obtained which turns to a faint yellow crystalline product on standing. Mp.: 52°-55° C., yield 87%.

reactant | 4-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-2-pentenoic acid | FC(C1=CC=C(OC2=CC=C(OC(C=CC(=O)O)C)C=C2)C=C1)(F)F | C18H15F3O4
reactant | pivaloyl chloride | 12 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | diethyl-ethoxy-magnesium malonate | C(CC(=O)[O-])(=O)[O-].C(C)C(C)(O[Mg+2])CC
reactant | diethyl malonate | 17.6 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl-4-[4'-(4"-trifluoromethyl-phenoxy)-phenoxy]-2-pentenoyl-malonate | 43 g, yield 87% | C(C)OC(C(C(=O)OCC)C(C=CC(C)OC1=CC=C(C=C1)OC1=CC=C(C=C1)C(F)(F)F)=O)=O | C25H25F3O7
